US07875745B2
3,5-Dimethoxy-4-methylbenzoic acid was allowed to react with oxalyl chloride, and the resulting acid chloride was allowed to react with N,O-dimethylhydroxyamine hydrochloride to obtain N,3,5-trimethoxy-N,4-dimethylbenzamide. The resulting compound was allowed to react with 4-phenylbutylmagnesium chloride to obtain 1-(3,5-dimethoxy-4-methylphenyl)-5-phenylpentan-1-one. The resulting compound was allowed to react with lithium diisopropylaminez and methyl[4-(bromomethyl)phenyl]acetate in the presence of N,N,N′,N″,N″-pentamethyldiethylenetriamine to obtain methyl{4-[2-(3,5-dimethoxy-4-methylbenzolyl)-5-phenylpentyl]phenyl}acetate. Using the obtained compound, the procedure similar to Example 2 were carried out to give the title compound having the following physical properties.

reactant | 3,5-Dimethoxy-4-methylbenzoic acid | COC=1C=C(C(=O)O)C=C(C1C)OC | C10H12O4
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,O-dimethylhydroxyamine hydrochloride | Cl.CNOC
product | N,3,5-trimethoxy-N,4-dimethylbenzamide | CON(C(C1=CC(=C(C(=C1)OC)C)OC)=O)C | C12H17NO4
